US05389641
7d) 1-(4-Bromomethylphenyl)pyrrole-2-carbonitrile
A solution of 1-(4-methylphenyl)pyrrole-2-carbonitrile (4.9 g), N-bromosuccinimide (5.5 g) and perbenzoic acid (65 mg) in carbon tetrachloride was heated under reflux in light radiation for 2 hours. After removal of insoluble materials by filtration, the filtrate was concentrated to dryness. The residue was purified by column chromatography on silica gel to afford a colorless syrup (6.6 g, 93%).

reactant | 1-(4-methylphenyl)pyrrole-2-carbonitrile | 4.9 g | CC1=CC=C(C=C1)N1C(=CC=C1)C#N | C12H10N2
reactant | N-bromosuccinimide | 5.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | perbenzoic acid | 65 mg | C1=CC=CC=C1C(=O)OO | C7H6O3
product | 1-(4-Bromomethylphenyl)pyrrole-2-carbonitrile | 6.6 g, 93% | BrCC1=CC=C(C=C1)N1C(=CC=C1)C#N | C12H9BrN2
